US08445510B2
trans-4-(4-{3-[1-(2,6-Dichloro-3-fluorophenyl)-2-fluoroethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanol
To a mixture of 5-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-5-methyl-1H-pyrazol-4-yl]-3-[1-(2,6-dichloro-3-fluorophenyl)-2-fluoro-2,2-bis(phenylsulfonyl)ethyl]-1H-pyrrolo[2,3-b]pyridine (30.00 mg, 0.03333 mmol) and Disodium hydrogen phosphate (94.64 mg, 0.6667 mmol) in methanol (5.00 mL, 123 mmol) and THF (0.300 mL, 3.70 mmol) at −20° C. was added Sodium Mercury Amalgam (5% sodium; 0.28 g, 0.67 mmol). The resulting mixture was stirred between −15° C. and −5° C. for 1.5 h. The mixture was transferred into another flask by filtration to remove the inorganic insolubles. Sat. aq. solution of NH4Cl (2 ml) was added to the MeOH mixture, then the solvent was removed under reduced pressure to give a residue, which was diluted by DCM and extracted by DCM (20 mL×3). The organic phase were combined, dried and concentrated to give a desulfonylated intermediate [MS (ES+): m/z 619.23, 621.23 [MH+]. HPLC: tR=2.02 min (polar—3 min, TOF)]. This intermediate was dissolved in THF (0.3 mL) at 0° C., 2.0 M aq. HCl (0.50 mL, 1.0 mmol) was added, and the resulting mixture was stirred at rt for 30 min. NaHCO3 (112.0 mg, 1.333 mmol) was added to the mixture slowly to adjust pH=≈9. Then the solvent was removed under reduced pressure to give a residue, which was diluted by DCM and extracted by DCM (20 mL×3). The organic phase were combined, dried and concentrated to give a crude residue which was purified by silica gel chromatography (eluent: 5% MeOH in DCM) to give the title compound. 1H NMR (400 MHz, CD3OD): δ=1.48-1.60 (m, 2H), 1.94-2.16 (m, 6H), 2.26 (s, 3H), 3.63-3.77 (m, 1H), 4.15-4.28 (m, 1H), 5.20-5.54 (m, 2H), 5.62-5.75 (m, 1H), 7.28 (t, J=8.6 Hz, 1H), 7.35-7.64 (m, 4H), 8.20 (d, J=2.0 Hz, 1H). MS (ES+): m/z 505.06, 507.07 [MH+]. HPLC: tR=1.33 min (polar—3 min, TOF).

reactant | 5-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-5-methyl-1H-pyrazol-4-yl]-3-[1-(2,6-dichloro-3-fluorophenyl)-2-fluoro-2,2-bis(phenylsulfonyl)ethyl]-1H-pyrrolo[2,3-b]pyridine | 0.03333 mmol, 30.00 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1C)C=1C=C2C(=NC1)NC=C2C(C(S(=O)(=O)C2=CC=CC=C2)(S(=O)(=O)C2=CC=CC=C2)F)C2=C(C(=CC=C2Cl)F)Cl | C43H46Cl2F2N4O5S2Si
reactant | Disodium hydrogen phosphate | 0.6667 mmol, 94.64 mg | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | methanol | 123 mmol, 5.00 mL | CO | CH4O
reactant | HCl | 1.0 mmol, 2.0 M, 0.50 mL | Cl | ClH
reactant | NaHCO3 | 1.333 mmol, 112.0 mg | C(=O)(O)[O-].[Na+]
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
catalyst | Sodium Mercury Amalgam | 0.67 mmol, 0.28 g | [Na].[Hg]
solvent | THF | 3.70 mmol, 0.300 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | trans-4-(4-{3-[1-(2,6-Dichloro-3-fluorophenyl)-2-fluoroethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanol | ClC1=C(C(=CC=C1F)Cl)C(CF)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)[C@@H]2CC[C@H](CC2)O | C25H24Cl2F2N4O
